US06153768
Synthesis of (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[4-(5-(4,4,5,5,5-pentafluoropentylsulfonyl)pentyloxy)phenyl]thiochroman
Aqueous 6N--HCl solution (1 ml) was added to tetrahydrofuran solution (1.5 ml) of (3RS,4RS)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-4-[4-(5-(4,4,5,5,5-pentafluoropentylsulfonyl)pentyloxy)phenyl]thiochroman (37 mg, 0.050 mmol) and then stirred for one hour. After adding water, the reaction solution was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate and then distilled under reduced pressure to remove the solvent. The crude product thus obtained was purified using silica gel plate (ethyl acetate:hexane=1:2) to obtain 22 mg (yield: 70%) of the title compound.

reactant | HCl | 1 ml | Cl | ClH
reactant | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
reactant | (3RS,4RS)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-4-[4-(5-(4,4,5,5,5-pentafluoropentylsulfonyl)pentyloxy)phenyl]thiochroman | 0.050 mmol, 37 mg | COCOC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)OCOC)C1=CC=C(C=C1)OCCCCCS(=O)(=O)CCCC(C(F)(F)F)(F)F | C36H43F5O7S2
solvent | water | O | H2O
product | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[4-(5-(4,4,5,5,5-pentafluoropentylsulfonyl)pentyloxy)phenyl]thiochroman | 22 mg, yield: 70% | OC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)O)C1=CC=C(C=C1)OCCCCCS(=O)(=O)CCCC(C(F)(F)F)(F)F | C32H35F5O5S2
